US06642395B1
2) Preparation of (R)-2-(3-chlorophenyl)-2-hydroxyethyl methanesulfonate
Into toluene (30 ml) were added (R)-2-(3-chlorophenyl)-2-hydroxyethanol obtained in 1) above (7 g), pyridine (8.0 g) and further, under ice-cooling and dropwise, p-toluenesulfonyl chloride (9.3 g), and then the resulting mixture was stirred at the same temperature for 24 hours. The solid thus precipitated was filtered off, the filtrate was concentrated, and the residue was dissolved in toluene (40 ml) and then washed with dilute hydrochloric acid. The organic layer was collected by layer separation, washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off, the solvent was distilled off under reduced pressure, and the residue was recrystallized from diethyl ether and hexane to obtain a colorless oily compound mentioned above (10.6 g, 80.0%).

reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | (R)-2-(3-chlorophenyl)-2-hydroxyethanol | ClC=1C=C(C=CC1)[C@H](CO)O | C8H9ClO2
reactant | p-toluenesulfonyl chloride | 9.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 8.0 g | N1=CC=CC=C1 | C5H5N
product | (R)-2-(3-chlorophenyl)-2-hydroxyethyl methanesulfonate | CS(=O)(=O)OC[C@H](O)C1=CC(=CC=C1)Cl | C9H11ClO4S
